US09034866B2
Synthesis of 9-iodo-4,5-dihydrobenzo[b]pyrazolo[1,5-d][1,4]oxazepine-2-carboxamide
A suspension of ethyl 9-iodo-4,5-dihydrobenzo[b]pyrazolo[1,5-d][1,4]oxazepine-2-carboxylate (300 mg, 0.78 mmol) in 7 M ammonia solution (in methanol, 3 ml) was heated in a microwave apparatus to 130° C. for 70 minutes. After cooling the volatiles were removed in vacuo and the residue was purified by FCC (silica, 20-100% ethyl acetate in heptane) to give 99 mg (36%) of the title compound as an off-white solid. 1H NMR (DMSO, 500 MHz) δ 3.17 (2H, t, J=5.8 Hz), 4.47 (2H, t, J=5.9 Hz), 6.71 (1H, s), 7.03 (1H, d, J=8.5 Hz), 7.36 (1H, s), 7.66 (1H, dd, J=8.5, 2.2 Hz), 7.81 (1H, s), 8.29 (1H, d, J=2.2 Hz); M+1=356

reactant | ethyl 9-iodo-4,5-dihydrobenzo[b]pyrazolo[1,5-d][1,4]oxazepine-2-carboxylate | 0.78 mmol, 300 mg | IC1=CC2=C(OCCC=3N2N=C(C3)C(=O)OCC)C=C1 | C14H13IN2O3
reactant | ammonia | 7 M, 3 ml | N | H3N
product | 9-iodo-4,5-dihydrobenzo[b]pyrazolo[1,5-d][1,4]oxazepine-2-carboxamide | 99 mg, 36% | IC1=CC2=C(OCCC=3N2N=C(C3)C(=O)N)C=C1 | C12H10IN3O2
